US04481370
3-(Trifluoromethyl)phenyl carbamic fluoride was prepared in situ by the reaction of 187 parts of 1-isocyanato-3-(trifluoromethyl)benzene and 370 parts of hydrogen fluoride added over a period of about 15 minutes at about 4° C. The reaction mixture was then sealed in a polytetrafluoroethylene reaction vessel, heated to about 24° C., and maintained thereat, with agitation, for about 96 hours. The reaction vessel was then opened to atmospheric pressure and most of the hydrogen fluoride and carbonyl fluoride gases removed. The remaining organic product was analyzed by gas chromatographic techniques, using n-pentadecane as an internal standard, indicating a yield of 41 parts of 3-(trifluoromethyl)benzenamine.

reactant | 1-isocyanato-3-(trifluoromethyl)benzene | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
reactant | hydrogen fluoride | F | FH
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
reactant | carbonyl fluoride | C(=O)(F)F | CF2O
product | 3-(Trifluoromethyl)phenyl carbamic fluoride | FC(C=1C=C(C=CC1)NC(=O)F)(F)F | C8H5F4NO
